US09079850B2
Preparation of 2-Ethylbutyl Caproate
580.8 g (5 mol) of caproic acid, 613.1 g (6 mol) of 2-ethylbutanol and 0.34 g of tin oxalate (“Fascat 2001”) were heated to 160° C. under N2, during which water separation was observed. Once water separation had subsided, the mixture was heated to 210° C. in 10° C. steps. This temperature was then held for 3 h. Then, firstly the excess alcohol was removed by distillation and then the product was distilled at 13-31 mbar and 114-124° C. The product (879.9 g) was obtained as a clear liquid with an acid number of 0.26 and an OH number of 2.17.

reactant | caproic acid | 5 mol, 580.8 g | C(CCCCC)(=O)O | C6H12O2
reactant | 2-ethylbutanol | 6 mol, 613.1 g | C(C)C(CO)CC | C6H14O
catalyst | tin oxalate | 0.34 g | C(C(=O)[O-])(=O)[O-].[Sn+4].C(C(=O)[O-])(=O)[O-]
solvent | water | O | H2O
product | 2-Ethylbutyl Caproate | 879.9 g | C(CCCCC)(=O)OCC(CC)CC | C12H24O2
